US07867690B2
A four-necked flask having an inner volume of 100 mL, which was equipped with a dropping funnel, a thermometer and a nitrogen introducing pipe, was charged with 4.64 g (40.0 mmoles) of 4-hydroxy-4-methyltetrahydropyran and 20.0 g of methylene chloride and further charged with 0.24 g (2.0 mmoles) of 4-(N,N-dimethylamino)pyridine and 6.78 g (60.0 mmoles) of 2-chloroacetyl chloride. Subsequently, 6.37 g (63.0 mmoles) of triethylamine was added dropwise at room temperature over 30 minutes. After completion of the dropwise addition, the mixture was stirred at room temperature for 10 hours. To this reaction mixed solution, 1.11 g (24.0 mmoles) of ethanol was added dropwise, and subsequently, 20.0 g of water was added dropwise; and the mixture was stirred for 20 minutes. This reaction mixed solution was separated into an aqueous layer and an organic layer. The aqueous layer was extracted twice with 20 mL of methylene chloride; the extract was combined with the foregoing organic layer; the mixture was washed once with 10 mL of water and concentrated in vacuo, thereby obtaining 6.09 g (31.6 mmoles) of 4-chloroacetoxy-4-methyltetrahydropyran (yield: 79%).

reactant | 4-hydroxy-4-methyltetrahydropyran | 40.0 mmoles, 4.64 g | OC1(CCOCC1)C | C6H12O2
reactant | 2-chloroacetyl chloride | 60.0 mmoles, 6.78 g | ClCC(=O)Cl | C2H2Cl2O
reactant | triethylamine | 63.0 mmoles, 6.37 g | C(C)N(CC)CC | C6H15N
reactant | ethanol | 24.0 mmoles, 1.11 g | C(C)O | C2H6O
catalyst | 4-(N,N-dimethylamino)pyridine | 2.0 mmoles, 0.24 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | water | 20.0 g | O | H2O
solvent | methylene chloride | 20.0 g | C(Cl)Cl | CH2Cl2
product | 4-chloroacetoxy-4-methyltetrahydropyran | 31.6 mmoles, 6.09 g, yield: 79% | ClCC(=O)OC1(CCOCC1)C | C8H13ClO3
